US08242133B2
A mixture of 2.1 g of 2-(3-benzyloxypyridin-4-yl)-5-tert-butylbenzoxazole, 0.58 g of 5% palladium on carbon and 50 ml of acetic acid was stirred under about one atmosphere of hydrogen at room temperature for six hours. The reaction mixture was filtered through Celite™. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.3 g of 4-(5-tert-butylbenzoxazole-2-yl)pyridin-3-ol (hereinafter, referred to as “active compound 103”).

reactant | 2-(3-benzyloxypyridin-4-yl)-5-tert-butylbenzoxazole | 2.1 g | C(C1=CC=CC=C1)OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(C)(C)C | C23H22N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.58 g | [Pd] | Pd
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(5-tert-butylbenzoxazole-2-yl)pyridin-3-ol | 1.3 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)O)C1 | C16H16N2O2
